US05606067
Preparation of pyridinium allyl chloride
of water are placed in the reactor. 229.58; (3 mol) of allyl chloride are added and the mixture is heated to 50° C. 237.0g (3 mol) of pyridine are then added dropwise over a period of one hour with vigorous stirring. Following a further eight hours at 50° C. the reaction mixture is subjected to steam distillation at 500 mbar/80° C. During the steam distillation the pH is kept at 5 by means of dilute NaOH. Distillation is continued until the content of pyridine in the bottoms is less than 0.1%. The yield is 90%.

reactant | water | O | H2O
reactant | allyl chloride | 3 mol | C(C=C)Cl | C3H5Cl
reactant | pyridine | N1=CC=CC=C1 | C5H5N
product | pyridinium allyl chloride | yield is 90% | C(C=C)Cl.[NH+]1=CC=CC=C1 | InChI=1S/C5H5N.C3H5Cl/c1-2-4-6-5-3-1;1-2-3-4/h1-5H;2H,1,3H2/p+1
